US05723413
2-(2-Thiazolyl)-1,8-naphthyridine
2-Aminonicotinaldehyde (1.5 g, 12.3 mmol) and 2-acetylthiazole (1.64 g, 12.9 mmol) are dissolved in 12 ml of MeOH and the mixture is treated with 1.5 ml of 40% KOH. After 3 h, the reaction is complete and the mixture is poured onto water. The solid which is deposited is filtered off with suction, washed and dried. 1.22 g (yield 46%) of the desired product are obtained. M.p. 160°-165° C.

reactant | 2-Aminonicotinaldehyde | 12.3 mmol, 1.5 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | 2-acetylthiazole | 12.9 mmol, 1.64 g | C(C)(=O)C=1SC=CN1 | C5H5NOS
reactant | KOH | 1.5 ml | [OH-].[K+]
solvent | MeOH | 12 ml | CO | CH4O
product | 2-(2-Thiazolyl)-1,8-naphthyridine | 1.22 g, yield 46% | S1C(=NC=C1)C1=NC2=NC=CC=C2C=C1 | C11H7N3S
